US09388196B2
Step 1: (cis) (4-bromothiazol-2-yl) (2,6-dimethylmorpholino)methanone
To a solution of 4-bromothiazole-2-carboxylic acid (prepared according to the procedure given in WO200857336, 1.35 g, 6.49 mmol) in DMF (15 ml) was added HOBT (1.09 g, 7.14 mmol) at room temperature followed by the addition of (2S,6R)-2,6-dimethylmorpholine (0.75 g, 0.8 ml, 6.49 mmol). The reaction mixture was cooled to 0° C. and to this were added EDC (1.86 gm., 9.73 mmol) and triethylamine (2.63 g, 3.62 ml, 26.00 mmol). Mixture was stirred at room temperature for 15 hr. The progress of reaction was monitored by TLC. The reaction mixture was concentrated under reduced pressure. The residue so obtained was taken in ethyl acetate (150 ml) and washed with saturated sodium bicarbonate solution (1×40 ml) followed by brine (1×20 ml). The organic layer separated was dried over anhydrous sodium sulphate, filtered and concentrated at reduced pressure to get a crude product. The crude product was purified by column chromatography over silica gel (100-200 mesh) using 15% ethyl acetate in hexanes as an eluent to obtain the title compound (1.38 g, 69.7%). MS: m/z 306 (M+1)

reactant | 4-bromothiazole-2-carboxylic acid | BrC=1N=C(SC1)C(=O)O | C4H2BrNO2S
reactant | HOBT | 7.14 mmol, 1.09 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (2S,6R)-2,6-dimethylmorpholine | 6.49 mmol, 0.8 ml, 0.75 g | C[C@H]1CNC[C@H](O1)C | C6H13NO
reactant | EDC | 9.73 mmol, 1.86 gm
reactant | triethylamine | 26.00 mmol, 3.62 ml, 2.63 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | (cis) (4-bromothiazol-2-yl) (2,6-dimethylmorpholino)methanone | 1.38 g, 69.7% | BrC=1N=C(SC1)C(=O)N1C[C@@H](O[C@@H](C1)C)C | C10H13BrN2O2S
